US04876261
α-[[(2,3-dimethoxybenzyl)amino]methyl]-6-fluoro-3,4-dimethoxybenzyl alcohol (1.0 g) was dissolved in 7 ml of trifluoroacetic acid, and after adding thereto under ice cooling, conc. sulfuric acid (0.25 ml), the mixture was stirred for 40 minutes. 0.72 g of sodium acetate was added to the reaction mixture, and the mixture was concentrated. To the residue was added chloroform and water, and the mixture was basified by addition of conc. aqueous ammonia under ice cooling. After separating procedure, the chloroform layter was collected, washed with saturated aqueous NaCl solution, and drioed over anhydrous sodium sulfate. The solvent was distilled off, 0.94 g of 4-(6-fluoro-3,4-dimethoxyphenyl)-7,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline was obtained as a syrupy matter. (2) 0.90 g of 4-(6-fluoro-3,4-dimethoxyphenyl)-7,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline was dissolved in 25ml of dichloromethane; and to the mixture was added dropwise 1M boron tribomide-dichloromethane solution (27 ml) under an argon gas stream, at internal temperature of -30° to -60° C. under cooling while stirring, The mixture was stirred for 3 hours at room temperature, and 7.0 ml of methanol was added to the mixture under cooling with dry ice-methanol bath, dropwise. The mixture was stirred for 30 minutes at room temperature, the crystals which separated out was collected, giving 0.75 g of 4-(6-fluoro-3,4-dihydroxyphenyl)-7,8-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide.

reactant | α-[[(2,3-dimethoxybenzyl)amino]methyl]-6-fluoro-3,4-dimethoxybenzyl alcohol | 1.0 g | COC1=C(CNCC(C2=CC(=C(C=C2F)OC)OC)O)C=CC=C1OC | C19H24FNO5
reactant | sulfuric acid | 0.25 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium acetate | 0.72 g | C(C)(=O)[O-].[Na+]
solvent | trifluoroacetic acid | 7 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(6-fluoro-3,4-dimethoxyphenyl)-7,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 0.94 g | FC1=CC(=C(C=C1C1CNCC2=C(C(=CC=C12)OC)OC)OC)OC | C19H22FNO4
